US09402397B2
2-diazo-1-(furan-2-yl)ethanone (900 mg, 6.61 mmol) and 3,4,5,6-tetrachlorocyclohexa-3,5-diene-1,2-dione (846 mg, 10.05 mmol) were combined in dry benzene (10 ml) and refluxed vigorously for 6 hours. The solvent was evaporated to dryness, and the resulting crude material was subjected to column chromatography using 100-200 mesh range silica gel and an ethyl acetate/hexane solvent system. The crude material was a mixture of two compounds, which were separated by column chromatography. Crystallization from acetone yielded furan-2-yl(4,5,6,7-tetrachlorobenzo[d][1,3]dioxol-2-yl)methanone as a yellow solid (200 mg, 16.4%).

reactant | 2-diazo-1-(furan-2-yl)ethanone | 6.61 mmol, 900 mg | [N+](=[N-])=CC(=O)C=1OC=CC1 | C6H4N2O2
reactant | 3,4,5,6-tetrachlorocyclohexa-3,5-diene-1,2-dione | 10.05 mmol, 846 mg | ClC=1C(C(C(=C(C1Cl)Cl)Cl)=O)=O | C6Cl4O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | furan-2-yl(4,5,6,7-tetrachlorobenzo[d][1,3]dioxol-2-yl)methanone | 200 mg, 16.4% | O1C(=CC=C1)C(=O)C1OC2=C(O1)C(=C(C(=C2Cl)Cl)Cl)Cl | C12H4Cl4O4
